Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
nausea and vomiting 
 
Major Surgical or Invasive Procedure:
s/p Endoscopic retrograde cholangio-pancreatography ___
s/p Laparoscopic cholecystectomy ___

 
History of Present Illness:
HPI: Ms. ___ is a ___ yr old F with MDS, diagnosed on BM bx 
showing excess blasts, and cytogenetic findings of translocation 
3;5 and +WT-1 mutation with high risk of transformation to AML, 
currently on C215 Decitabine who presents from clinic with 
significant jaundice and direct bilirubinemia. 

The patient reports developing nausea and vomiting last week 
after eating large meal at ___ the nausea and vomiting 
has persisted since. She was also noted to have yellow skin tone 
in the clinic today but did not note this at home. She had no 
emesis yesterday but 2 episodes on ___ and emesis again this 
morning. No hematemesis, vomit is non-bilious, most c/w gastric 
contents. Since yesterday taking mostly liquids as solids cause 
abdominal discomfort. The pain is intermittent and epigastric. 
Denies RUQ pain. She reports baseline constipation but has had 
at least small BM most days and denies melena, hematochezia, or 
mucoid stool. Reports fatigue of several weeks duration. Denies 
Tylenol use or any recent changes to medications. She reports 
approximately 2 episodes per month of over-eating followed by 
abdominal pain and vomiting. She experiencing frequent 
generalized abdominal pain which she attributes to long-standing 
constipation, but the current episode is the worst she has 
experienced. 

Denies mouth sores, skin blisters, dermatomal pain. Also denies 
fever/chills/sweats, cough, SOB, itchy skin or new rashes, or 
dysuria.  

ROS: A 10-point ROS was performed with pertinent findings noted 
in HPI.

PAST ONCOLOGIC HISTORY: Dx ___. Patient had presented with 
progressive fatigue and was found to have pancytopenia and 
particularly significant anemia. A bone marrow was performed, 
which showed multilineage dysplasia and a 3;5 translocation.  
This was consistent with a myelodysplastic syndrome that may be 
associated with more rapid progression towards AML.  The patient 
was also on rapid heme panel found to have evidence of WT1 
amplification. On C2 of Decitabine without major complications.  

 
Past Medical History:
MDS
___ - she was hospitalized for this at age ___ and ___, sees 
counselor ___ in ___
Hx herniated disc
 
Social History:
___
Family History:
She is adopted, she is not aware of any siblings and is not 
aware of her biological parents health.

 
Physical Exam:
ADMISSION EXAM: 
VS: 98.5 122/80 90 18 96 RA 
GEN: Generally well appearing, in no acute distress. markedly 
jaundiced. 
HEENT: PERRLA. Oropharynx clear with moist mucous membranes. No 
gum hypertrophy. +scleral icterus
LYMPH: No palpable cervical or supraclavicular lymphadenopathy.
CV: Regular rate and rhythm, S1, S2, ___ systolic murmur at ___
RESP: CTAB, no crackles, wheeze, rhonchi
ABD:  Soft, ND, +BS. Diffusely tender to palpation most 
prominent in epigastic region. Neg ___, no rebound or 
guarding. 
EXT: Warm, without edema.
NEURO: Alert and oriented. Grossly normal strength, 
coordination, and gait.
SKIN: No rashes or bruising.
LINES: Left PIV without erythema or tenderness 

DISCHARGE EXAM:
VS: 99.0  (Tm 99.2)PO 126/79 91 18 94%Ra 
GEN: Generally well appearing though anxious, in no acute 
distress, lying in bed. 
HEENT: Oropharynx clear, MMM. No gum hypertrophy. 
LYMPH: No palpable cervical or supraclavicular lymphadenopathy.
CV: RRR, S1, S2, ___ systolic murmur at ___
RESP: mildly decreased breath sounds at bases, otherwise CTA, no 
wheezes, rales, rhonchi 
ABD:  Soft, ND, +BS. Nontender to palpation throughout
EXT: Warm, without edema.
NEURO: Alert and oriented. Grossly normal strength, 
coordination.
SKIN: No rashes or bruising.
LINES: Left PIV without erythema or tenderness 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:43PM   GLUCOSE-115* UREA N-12 CREAT-0.7 SODIUM-137 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-24 ANION GAP-17
___ 06:43PM   ALT(SGPT)-186* AST(SGOT)-112* LD(LDH)-238 ALK 
PHOS-94 TOT BILI-9.5* DIR BILI-4.5* INDIR BIL-5.0
___ 06:43PM   ALBUMIN-3.9 CALCIUM-8.0* PHOSPHATE-4.0 
MAGNESIUM-1.9
___ 06:43PM   CMV VL-NOT DETECT
___ 06:43PM   WBC-2.5* RBC-2.29* HGB-7.2* HCT-20.7* MCV-90 
MCH-31.4 MCHC-34.8 RDW-15.5 RDWSD-47.7*
___ 06:43PM   NEUTS-86* BANDS-0 LYMPHS-13* MONOS-0 EOS-1 
BASOS-0 ___ MYELOS-0 NUC RBCS-5* AbsNeut-2.15 
AbsLymp-0.33* AbsMono-0.00* AbsEos-0.03* AbsBaso-0.00*
___ 06:43PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-OCCASIONAL MICROCYT-OCCASIONAL POLYCHROM-1+ OVALOCYT-1+ 
TEARDROP-1+ ELLIPTOCY-1+
___ 06:43PM   PLT SMR-LOW PLT COUNT-101*
___ 06:43PM   ___ PTT-24.4* ___
___ 01:08PM   LACTATE-0.9
___ 12:25PM   GGT-261*
___ 12:25PM   HAPTOGLOB-52
___ 12:25PM   HBsAg-Negative HBc Ab-Negative IgM 
HAV-Negative
___ 12:25PM   Smooth-NEGATIVE
___ 12:25PM   ___
___ 12:25PM   ACETMNPHN-NEG
___ 12:25PM   HCV Ab-Negative
___ 12:25PM   HBV VL-NOT DETECT HCV VL-NOT DETECT
___ 12:25PM   ___ PTT-23.8* ___
___ 10:30AM   UREA N-14 CREAT-0.8 SODIUM-140 POTASSIUM-3.6 
TOTAL CO2-27 ANION GAP-19
___ 10:30AM   estGFR-Using this
___ 10:30AM   ALT(SGPT)-207* AST(SGOT)-147* LD(LDH)-309* 
ALK PHOS-86 TOT BILI-17.4* DIR BILI-9.4* INDIR BIL-8.0
___ 10:30AM   LIPASE-2880*
___ 10:30AM   ALBUMIN-4.6 CALCIUM-9.3 PHOSPHATE-4.5 
MAGNESIUM-2.2
___ 10:30AM   WBC-4.4# RBC-2.63* HGB-8.4* HCT-23.6* MCV-90 
MCH-31.9 MCHC-35.6 RDW-15.4 RDWSD-47.1*
___ 10:30AM   NEUTS-92* BANDS-0 LYMPHS-8* MONOS-0 EOS-0 
BASOS-0 ___ MYELOS-0 NUC RBCS-8* AbsNeut-4.05 
AbsLymp-0.35* AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 10:30AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-OCCASIONAL TEARDROP-OCCASIONAL
___ 10:30AM   PLT SMR-LOW PLT COUNT-141*
___ 10:30AM   RET MAN-2.0 ABS RET-0.05
___ 06:43PM BLOOD CMV VL-NOT DETECT
Adenovirus PCR negative
EBV PCR negative
HSV1 negative
HSV2 negative
VZV negative
IMAGING: CT abd/pelvis ___: 
IMPRESSION: 
1.CT findings consistent with acute cholecystitis. Mild 
prominence of the common bile duct. 

RUQUS ___: 
IMPRESSION:  
1.Distended gallbladder with mild wall thickening, gallstones 
and biliary sludge, dilated common bile duct at 1.0 cm, 
concerning for acute cholecystitis in the appropriate clinical 
setting. 
  
PATHOLOGY ___: 
SPECIMEN: BONE MARROW ASPIRATE AND CORE BIOPSY
DIAGNOSIS: HYPERCELLULAR BONE MARROW WITH ERYTHROID DOMINANT 
TRILINEAGE DYSPOIESIS CONSISTENT WITH PATIENT'S KNOWN 
MYELODYSPLASTIC
SYNDROME BEST CLASSIFIED AT THIS TIME AS MYELODYSPLASTIC 
SYNDROME
WITH EXCESS BLASTS-2. SEE NOTE.
NOTE: Blasts account for 4% of aspirate differential and 4% of
the peripheral blood cells. In addition Auer rods are seen both
in some peripheral blood blasts and marrow blasts. By
CD34 and CD117 staining, blasts comprise approximately 5% of
cellularity in the core biopsy.

CYTOGENETICS
FINDINGS: An abnormal 46,XX,t(3;5)(q21;q31) female chromosome
complement with a translocation involving the long arms of a
chromosome 3 and a chromosome 5 was observed in each
of the 10 mitotic cells available foe detailed examination.
Chromosome band resolution was 400-450. A karyogram was prepared
on 3 cells. CYTOGENETIC DIAGNOSIS: 46,XX,t(3;5)(q21;q31)[10]

DISCHARGE LABS:
===============

___ 06:22AM BLOOD WBC-3.2* RBC-2.55* Hgb-8.1* Hct-23.7* 
MCV-93 MCH-31.8 MCHC-34.2 RDW-15.7* RDWSD-49.0* Plt ___
___ 06:22AM BLOOD Neuts-68.9 ___ Monos-2.5* 
Eos-0.0* Baso-0.3 NRBC-4.7* Im ___ AbsNeut-2.19 
AbsLymp-0.88* AbsMono-0.08* AbsEos-0.00* AbsBaso-0.01
___ 06:22AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 06:22AM BLOOD ___ PTT-28.4 ___
___ 06:22AM BLOOD Glucose-101* UreaN-7 Creat-0.4 Na-140 
K-4.1 Cl-103 HCO3-28 AnGap-13
___ 06:22AM BLOOD ALT-47* AST-20 LD(LDH)-231 AlkPhos-69 
TotBili-2.1*
___ 06:22AM BLOOD Albumin-3.6 Calcium-8.6 Phos-4.5 Mg-2.2 
UricAcd-1.1*

 
Brief Hospital Course:
Ms. ___ is a ___ yr old female who was incidentally found to 
have anemia on routine annual exam with subsequent BM bx c/w 
high-risk MDS now on C2 decitabine who presented to clinic with 
nausea/vomiting and jaundice, and was found to have marked 
direct hyperbilirubinemia, elevated lipase, and mild 
transaminitis all concerning for acute biliary obstruction. 

#Acute cholecystitis: Noted in past to have low level indirect 
hyperbilirubinemia to ~2, presumed ___. History of 
intermittent abdominal pain and vomiting with large meals c/w 
biliary colic. Presented to clinic with nausea/vomiting and 
jaundice, and found to have severe direct hyperbilirubinemia, 
elevated lipase and mild transaminitis all concerning for acute 
cholecystitis. Elevated lipase but no pancreatitis on CT scan. 
Presenting symptoms and fever to 100.5 on admission concerning 
for ascending cholangitis warranted initiation of meropenem. 
Hepatitis ___ was negative. RUQUS and CT showing CBD dilatation, 
cholelithiasis and sludge, and GB findings c/w acute 
cholecystitis, prompting ERCP. ERCP on ___ showed dark sludging 
c/w obstructive pattern but no stones in CBD. ACS was consulted 
and perfomed laparoscopic cholecystectomy on ___. She tolerated 
both the ERCP and lap chole without complications. She was 
continued on meropenem 1g q8h (___). Patient's symptoms 
resolved completely post-op and there was no recurrence of 
fevers after meropenem discontinuation. 

#MDS ___/ excess blasts-2 - IPSS-R = 6 = high risk. Planning for 
allo HSCT. HLA typing performed, registry search w/ tentative 
___ unrelated donor but with DPB1 mismatch increasing GVH 
risk. Awaiting further information to confirm if additional 
___ donors are available. She has tolerated C1 and C2 
decitabine well until development of the current issue. She has 
not had circulating blasts and has good restitution of counts 
after each cycle. Patient has not been neutropenic this 
hospitalization.

#Anemia: Prior evaluation for hemolysis revealed low haptoglobin 
but she was DAT negative. Elevated ferritin and low TIBC were 
c/w inflammatory block. She recieved 2 units pRBCs prior to the 
lap chole for a hgb of 6 and responded appropriately with no 
signs of bleeding post-op.

#Aphthous ulcer: noted on R side of tongue. Painless. No 
treatment required.

#Soft stools: noted 3 soft BM post-op in setting of aggressive 
bowel regimen. Elected to monitor given patient is otherwise 
asymptomatic and NOT neutropenic.

TRANSITIONAL ISSUES:
====================
[ ] New Medications:
 - oxycodone 5 mg - please take only for breakthrough 
post-operative pain
 - no other medication changes.
[ ] Follow-up appointments:
 - On ___ ___
 - On ___ with the Surgical team
[ ] Ok to take showers but avoid baths
[ ] Continue with small meals and advance diet as tolerated
[ ] Steri strips over incisions should be allowed to come off on 
their own
# CODE: Presumed Full
# EMERGENCY CONTACT: ___ (husband), ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. LORazepam 0.5 mg PO BID PRN anxiety 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Prochlorperazine 5 mg PO Q6H:PRN nausea 
7. Vitamin D 1000 UNIT PO DAILY 
8. Ascorbic Acid ___ mg PO Frequency is Unknown 
9. Senna 8.6 mg PO DAILY:PRN constipation 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID:PRN 
wheezing  

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q12H:PRN Pain - Severe 

RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every 12 hours 
as needed Disp #*6 Tablet Refills:*0 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU BID  
5.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID:PRN 
wheezing   
6.  LORazepam 0.5 mg PO BID PRN anxiety  
7.  Ondansetron 4 mg PO Q8H:PRN nausea  
8.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
9.  Prochlorperazine 5 mg PO Q6H:PRN nausea  
10.  Senna 8.6 mg PO DAILY:PRN constipation  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute cholecystitis 
Myelodysplastic syndrome 
Anxiety 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure being a part of your care during your 
hospitalization at ___!

Why were you hospitalized?
You were admitted to ___ for nausea, vomiting, and yellowing 
of your skin (jaundice).

What was done for you this hospitalization?
-We did some blood tests, a cat (CT) scan, and an ultrasound of 
your abdomen and found that you had gallstones and an inflamed 
gallbladder. This is likely the cause of you belly pain and 
discomfort with meals.
-You had a procedure called an ERCP to remove bile and any 
stones from your biliary ducts. 
-You had your gallbladder surgically removed. 
-You tolerated these procedures very well and the labs we were 
tracking improved dramatically. 
-We gave you fluids, pain medication, and antibiotics to help 
you through the process.  Your white blood cell count (infection 
fighter cells) remained in the normal range. 

What should you do after you leave the hospital?
-Follow up with Dr. ___ in clinic on ___
-Follow up with the ___ clinic on ___
-Continue to take your medications as prescribed
-Ok to take showers but avoid baths
-Continue with small meals and advance diet as tolerated

We wish you the best!

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___